US07888366B2
The previous diol (500 mg; 2.67 mmol) and camphorsulfonic acid (12 mg; 2 mol %) are dissolved in dichloromethane with trimethylorthoformate (1.17 mL; 10.7 mmol). The reaction mixture is heated to 45° C. overnight. After cooling to RT, the solution is further cooled to −78° C. (dry ice/acetone) as diisobutylaluminum hydride (1M in hexane; 26.8 mL; 26.8 mmol) is added drop wise over 30 minutes. The temperature is maintained at −78° C. for 30 minutes, then increased and held at 0° C. for 15 minutes. The reaction is quenched with 3M KOH, and extracted with ether. The organics are separated, dried over magnesium sulfate, and concentrated to give 543 milligrams of 2-(4-chlorophenyl)-3-methoxymethoxypropan-1-ol.

reactant | trimethylorthoformate | 10.7 mmol, 1.17 mL | COC(OC)OC | C4H10O3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | diisobutylaluminum hydride | 26.8 mmol, 1M, 26.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | dichloromethane | ClCCl | CH2Cl2
catalyst | camphorsulfonic acid | 12 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | 2-(4-chlorophenyl)-3-methoxymethoxypropan-1-ol | 543 milligrams | ClC1=CC=C(C=C1)C(CO)COCOC | C11H15ClO3
